US04638067
To 0.76 g (2.33 mmol) of 6,7,8-trifluoro-1-(2,2,2-trifluoroethyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid in 7.0 ml of acetonitrile was added 0.355 g (2.33 mmol) of 1,8-diazobicyclo [5.4.0]undec-7-ene in 5 ml of acetonitrile followed by 0.29 g (2.33 mmol) of 3-[(ethylamino)methyl]pyrrolidine. The mixture was refluxed for one hour and kept at room temperature overnight. The solids were collected and washed with ether to give 0.77 g of 7-[3-[(ethylamino)methyl]-1-pyrrolidinyl]-6,8-difluoro-1,4-dihydro-4-oxo-1-(2,2,2-trifluoroethyl)-3-quinolinecarboxylic acid, mp 222°-224° C.

reactant | 6,7,8-trifluoro-1-(2,2,2-trifluoroethyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 2.33 mmol, 0.76 g | FC=1C=C2C(C(=CN(C2=C(C1F)F)CC(F)(F)F)C(=O)O)=O | C12H5F6NO3
reactant | 3-[(ethylamino)methyl]pyrrolidine | 2.33 mmol, 0.29 g | C(C)NCC1CNCC1 | C7H16N2
solvent | acetonitrile | 7.0 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 7-[3-[(ethylamino)methyl]-1-pyrrolidinyl]-6,8-difluoro-1,4-dihydro-4-oxo-1-(2,2,2-trifluoroethyl)-3-quinolinecarboxylic acid | 0.77 g | C(C)NCC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1F)CC(F)(F)F)C(=O)O)=O)F | C19H20F5N3O3
